* source P1_2024_432D_CONDREA_COSMIN_GSD_N9_ORCAD
R_R1         N99479 VCC  1k TC=0,0 
X_P1         0 N50631 N21962 POT PARAMS: SET=1 VALUE=10k
Q_Q2         N28905 N01033 VSS QBC817-25 
Q_Q1         N00941 N00925 VSS QBC817-25 
V_VCC         VCC 0 9Vdc
V_VSS         0 VSS 9Vdc
Q_Q3         N29003 N49952 VSS QBC846B 
Q_Q4         N49304 N29003 VSS QBC846B 
R_R12         N29003 VCC  3.3k TC=0,0 
X_P2         N29145 N47329 0 POT PARAMS: SET=1 VALUE=100k
R_R6         N00925 N21962  8.200k TC=0,0 
R_R5         N01033 N21962  8.200k TC=0,0 
R_R23         N21962 N45816  3.3k TC=0,0 
R_R11         N28905 N49952  100k TC=0,0 
R_R24         N45816 0  1k TC=0,0 
C_C3         N00925 N28905  1n  TC=0,0 
C_C4         N00925 N28905  1n  TC=0,0 
C_C1         N00941 N01033  1n  TC=0,0 
C_C2         N00941 N01033  1n  TC=0,0 
R_RL1         N92755 N47329  6.8k TC=0,0 
R_R19         N29145 N63469  15k TC=0,0 
R_R20         N63469 0  10k TC=0,0 
X_D1         VCC N65723 LED PARAMS: IS=7.0822e-18 RS=2  BV=5 IBV=10e-6         
X_D2         0 N65438 LED PARAMS: IS=7.0822e-18 RS=2  BV=5 IBV=10e-6         
R_R25         N65723 0  680 TC=0,0 
R_R27         N65438 VSS  680 TC=0,0 
R_R26         N65723 0  680 TC=0,0 
R_R28         N65438 VSS  680 TC=0,0 
C_C5         N29003 N49304  47p  TC=0,0 
R_R17         N92191 N49304  10k TC=0,0 
R_R18         N29145 N92191  8.2k TC=0,0 
R_RL2         0 N92755  2.2k TC=0,0 
R_R22         N98672 N50631  330 TC=0,0 
R_R21         VCC N98672  330 TC=0,0 
R_R2         N99483 VCC  1k TC=0,0 
R_R4         N00941 N99483  1k TC=0,0 
R_R3         N00941 N99479  1k TC=0,0 
R_R9         N28905 N100051  1k TC=0,0 
R_R7         N100051 VCC  1k TC=0,0 
R_R10         N28905 N100055  1k TC=0,0 
R_R8         N100055 VCC  1k TC=0,0 
R_R13         N49304 VCC  3.9k TC=0,0 
R_R14         N49304 VCC  3.9k TC=0,0 
R_R15         N49304 VCC  3.9k TC=0,0 
R_R16         N49304 VCC  3.9k TC=0,0 
